US05225412
N-Methyl-N-[2-(1-(6-fluoro-1,2-benzisoxazol-3-yl)-4-piperidinyl)ethyl]-1,2-benzisothiazole-3-carboxamide hydrochloride hemihydrate
To a mixture of N-methyl-N-(2-hydroxyethyl)-1,2-benzisothiazole-3-carboxamide (4.00 g) and triethylamine (2.48 ml), in sieve-dried toluene (100 ml) stirred at 0°, under nitrogen, was added dropwise methanesulfonyl chloride (1.34 ml). The mixture was stirred and warmed to ambient temperature. After 45 mins, 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (3.72 g) was added, and the mixture was heated for 18 hrs under reflux, with stirring. The mixture was allowed to cool to room temperature, and was added to 2% sodium hydroxide solution. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The combined extracts were washed with water, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was chromatographed on silica using ethyl acetate as eluent. The appropriate fractions were collected and evaporated. The residue was dissolved in dichloromethane and hydrogen chloride in ethanol was added, followed by ether. The salt was recrystallized from dichloromethane/ether to provide 1.45 g (14.0%) product, mp 211°-214° C. (dec).

reactant | N-methyl-N-(2-hydroxyethyl)-1,2-benzisothiazole-3-carboxamide | 4.00 g | CN(C(=O)C1=NSC2=C1C=CC=C2)CCO | C11H12N2O2S
reactant | methanesulfonyl chloride | 1.34 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 3.72 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | triethylamine | 2.48 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-Methyl-N-[2-(1-(6-fluoro-1,2-benzisoxazol-3-yl)-4-piperidinyl)ethyl]-1,2-benzisothiazole-3-carboxamide hydrochloride hemihydrate | 1.45 g, 14.0% | O.Cl.CN(C(=O)C1=NSC2=C1C=CC=C2)CCC2CCN(CC2)C2=NOC1=C2C=CC(=C1)F.CN(C(=O)C1=NSC2=C1C=CC=C2)CCC2CCN(CC2)C2=NOC1=C2C=CC(=C1)F.Cl | InChI=1S/2C23H23FN4O2S.2ClH.H2O/c2*1-27(23(29)21-18-4-2-3-5-20(18)31-26-21)11-8-15-9-12-28(13-10-15)22-17-7-6-16(24)14-19(17)30-25-22;;;/h2*2-7,14-15H,8-13H2,1H3;2*1H;1H2
